Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Epigastric pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ GERD, chronic pancreatitis of unclear etiology, recent 
admission for acute-on-chronic pancreatitis, who presented to 
___ with epigastric pain.

She was recently admitted to ___ for pancreatitis. CT 
abdomen, MRCP and EUS were performed. The conclusion of the 
imaging workup is that the pancreatitis appeared predominantly 
chronic.

She reports that recently she lost her son unexpectedly and she 
has been drinking five glasses of wine a night for the past two 
months. She felt bashful about this and had not admitted this to 
any healthcare provider ___. 

Since her discharge about ten days ago, she improved back to her 
baseline and was symptom free until the afternoon of ___ when 
she had recurrence of epigastric and RUQ abdominal pain. This 
was about ___ in severity. No fevers chills. No nausea 
vomiting. No diarrhea. 

She presented to the ___ labs were notable for no 
leukocytosis, no notable electrolyte derangements, AST 262, ALT 
86, AP 179, Tbili 0.4, lipase 1777. Transferred to ___ ___ in 
case ERCP would be needed. Vitals in the ___ ___ were stable: 
98.0F, HR 58, 147/60, 18, 97% RA. Basic labs were not notably 
changed compared to values from ___. She was admitted to 
medicine.

Of note, while her recent alcohol habit likely explains her two 
recent episodes of pancreatitis, she denies ever drinking 
heavily and regularly prior to ___ therefore the etiology 
of her subclinical chronic pancreatitis remains unclear. She has 
a dilated CBD, but no stones or sludge were seen on EUS and - 
per discussion with the ERCP fellow - the partial blockage is 
likely from mass effect of a pancreatic duct stone (i.e. a 
symptom of the pancreatitis, not its root cause). Triglycerides 
were normal. IgG4 was normal. 

REVIEW OF SYSTEMS
 GEN: denies fevers/chills
 CARDIAC: denies chest pain or palpitations
 PULM: denies new dyspnea or cough
 GI: as per HPI
 GU: denies dysuria or change in appearance of urine
 Full 14-system review of systems otherwise negative and 
non-contributory. 
 
Past Medical History:
Pancreatitis
GERD
C-section x2
 
Social History:
___
Family History:
Mother had head and neck cancer.
no family history of pancreatitis
 
Physical Exam:
DISCHARGE EXAM
 VITALS: 98.0F, HR 58, 147/60, 18, 97% RA.
 CONSTITUTIONAL: NAD
 EYE: sclerae anicteric, EOMI
 ENT: audition grossly intact, MMM, OP clear 
 LYMPHATIC: No LAD
 CARDIAC: RRR, no M/R/G, JVP not elevated, no edema
 PULM: normal effort of breathing, LCAB
 GI: soft, ND, NABS, minimal epigastric tenderness on palpation
 GU: no CVA tenderness, suprapubic region soft and nontender
 MSK: no visible joint effusions or acute deformities.
 DERM: no visible rash. No jaundice.
 NEURO: AAOx3. No facial droop, moving all extremities.
 PSYCH: somewhat dysthymic and blunted affect
 
Pertinent Results:
LABS:
___ 06:40AM BLOOD WBC-7.0 RBC-3.48* Hgb-11.6 Hct-35.2 
MCV-101* MCH-33.3* MCHC-33.0 RDW-12.6 RDWSD-46.8* Plt ___
___ 06:40AM BLOOD Glucose-96 UreaN-10 Creat-0.6 Na-143 
K-3.7 Cl-107 HCO3-24 AnGap-12
___ 06:40AM BLOOD Ethanol-NEG

NOTABLE LABS FROM ___:
___: AST 262, ALT 86, AP 179, Tbili 0.4, lipase 1777
Prior admission: IgG4 11.8 (normal), triglycerides 90

RUQ US ___
1. Dilated CBD up to 11 mm, tapering down smoothly to the level 
of the ampulla. No intrahepatic biliary dilation.
2. Mildly heterogeneous head and proximal body of the pancreas 
without identifiable stone sonographically. No pancreatic duct 
dilation.

EUS ___ (prior admission)
Pancreatic parenchymal changes suggestive of chronic 
pancreatitis.
CBD dilation to 12 mm without stones or sludge.
Normal appearing ampulla.

MRCP ___ (prior admission)
4 mm pancreatic calcification appears to represent mid
pancreatic duct stone. Associated acute pancreatitis involving 
the body and tail the pancreas. No pancreatic abscess or 
pseudocyst at this time.

 
Brief Hospital Course:
___ w/ GERD, chronic pancreatitis of unclear etiology, admitted 
for acute-on-chronic pancreatitis.

#RECURRENT IDIOPATHIC ACUTE PANCREATITIS
New rise in lipase with associated epigastric pain suggests 
acute-on-chronic pancreatitis. Cause is likely her recent 
alcohol overuse. She improved quickly with IVF and was 
tolerating diet with minimal pain. 
Case was discussed with ERCP fellow, who does not feel that any 
further procedures are indicated. While she has radiographic 
evidence of a PD stone, extracting these has no proven benefit.
Counseled strict abstinence from alcohol. Encouraged her to quit 
smoking given that this can exacerbate chronic pancreatitis. To 
help her quit smoking, and to help with mood symptoms that are a 
trigger for her drinking, I have given her a 60 day trial of 
Wellbutrin.

#SUBACUTE CHRONIC PANCREATITIS
EUS showed multiple changes, such as calcifications, that 
suggest a component of underlying chronic pancreatitis. While 
her recent alcohol habit likely explains her two recent episodes 
of acute pancreatitis, she denies ever drinking heavily and 
regularly prior to ___ therefore the etiology of her 
subclinical chronic pancreatitis remains unclear. She has a 
dilated CBD, but no stones or sludge were seen on EUS and - per 
discussion with the ERCP fellow - the partial blockage is likely 
from mass effect of a nearby pancreatic duct stone (i.e. a 
symptom of the chronic pancreatitis, not its root cause). 
Triglycerides were normal. IgG4 was normal. I have advised her 
to follow up with GI non-urgently for further workup as an 
outpatient

#MACROCYTIC ANEMIA
Macrocytosis with MCV of 101 and mild anemia. Likely due to 
alcohol. If persistent after alcohol cessation, would check 
thiamine and folate. 

#GERD: 
Continues omeprazole 20 mg daily.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  BuPROPion (Sustained Release) 150 mg PO BID 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for acute pancreatitis. Fortunately you 
improved quite quickly. This was likely caused by a recent 
increase in your drinking, which you tell me has been a coping 
strategy after the loss of your son. 

It is important that you stop drinking ENTIRELY. Once the 
pancreas is inflamed, even a small insult can make it flare up 
again. Smoking is also bad for pancreatitis, so I also suggest 
that you try your best to quit smoking (but alcohol is the 
higher priority if you feel unable to do both). 

I am prescribing bupropion (Wellbutrin), which is a quit-aid for 
smokers and also a mild antidepressant. This will make it easier 
to quit smoking, and may also help with mood symptoms that have 
been a trigger for alcohol overuse. If you do not tolerate the 
medication, it is OK to stop it. 

Your idea of going for a long walk whenever you feel sad is a 
very sound one. The endorphins from gentle exercise provide a 
similar emotional relief to having a drink. I suggest also being 
open with your friends and family about your recent struggles; 
it is important to have people in your life who can support you 
emotionally, and also keep you occupied with social activities. 
AA is also an option; whether or not you feel that the meetings 
themselves are helpful, AA is a good way to meet other people 
who want to form sober friendships and can offer mutual support. 

 
Followup Instructions:
___